US07259266B2
The 2-amino-3,5-dibromobenzaldehyde (6.50 g, 23.3 mmol), triethylamine (6.96 g, 69.9 mmol) and ethyl 4,4,4-trifluorocrotonate (7.85 g, 46.6 mmol) were mixed in dimethylsulfoxide (12.0 mL) at 90° C. for 48 h. The solution was cooled to room temperature and the solution poured into ethyl acetate (100 mL). The solution was extracted with saturated aqueous ammonium chloride (2×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The ethyl 6,8-dibromo-2-(trifluoromethyl)-1,2-dihydroquinoline-3-carboxylate (4.3 g, 10.0 mmol) was isolated as a yellow solid by flash silica chromatography (43% yield): MS m/z 428 (M−H, calcd 428).

reactant | 2-amino-3,5-dibromobenzaldehyde | 23.3 mmol, 6.50 g | NC1=C(C=O)C=C(C=C1Br)Br | C7H5Br2NO
reactant | triethylamine | 69.9 mmol, 6.96 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4,4,4-trifluorocrotonate | 46.6 mmol, 7.85 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 12.0 mL | CS(=O)C | C2H6OS
product | ethyl 6,8-dibromo-2-(trifluoromethyl)-1,2-dihydroquinoline-3-carboxylate | 10.0 mmol, 4.3 g, 43% yield | BrC=1C=C2C=C(C(NC2=C(C1)Br)C(F)(F)F)C(=O)OCC | C13H10Br2F3NO2
